US07741326B2
7-Bromo-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-2-sulfonyl chloride (0.63 gm, 1.5 mmol) was dissolved in THF (5 ml) and added dropwise to a mixture of sodium sulfite (0.504 gm, 4 mmol) and sodium bicarbonate (0.336 gm, 4 mmol) in water (12 ml). The mixture was refluxed for three hours, cooled to room temperature, and methyl iodide (0.75 ml, 12 mmol) was added. The mixture was heated to 50° C. for two hours then cooled to room temperature and stirred for 16 hours. The mixture was diluted with water and extracted twice with dichloromethane. The solution was dried over magnesium sulfate and purified by preparative thin layer chromatography (1/4, ethyl acetate/hexanes) to give 7-bromo-5-fluoro-3-(3-fluoro-benzyl)-2-methanesulfonyl-benzofuran (0.35 gm, 58% yield), (M+H)+ 402.

reactant | 7-Bromo-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-2-sulfonyl chloride | 1.5 mmol, 0.63 gm | BrC1=CC(=CC=2C(=C(OC21)S(=O)(=O)Cl)CC2=CC(=CC=C2)F)F | C15H8BrClF2O3S
reactant | sodium sulfite | 4 mmol, 0.504 gm | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 4 mmol, 0.336 gm | C([O-])(O)=O.[Na+]
reactant | methyl iodide | 12 mmol, 0.75 ml | CI | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 12 ml | O | H2O
product | 7-bromo-5-fluoro-3-(3-fluoro-benzyl)-2-methanesulfonyl-benzofuran | 0.35 gm, 58% yield | BrC1=CC(=CC=2C(=C(OC21)S(=O)(=O)C)CC2=CC(=CC=C2)F)F | C16H11BrF2O3S
